US08835472B2
tert-Butyl 1-(4-bromophenyl)propan-2-ylcarbamate
To 25.0 g (117 mmol) 1-(4-bromophenyl)propan-2-amine in 500 mL DCM are added 73 mL of a 2N aq. Na2CO3 solution followed by 26.9 g (123 mmol) di-tert-butyl dicarbonate (in 50 mL DCM) and the resulting mixture is stirred at r.t. for 2 h. 250 mL water are added and the layers are separated. The organic layer is washed with water (2×), dried with MgSO4 and the solvent is removed in vacuo. The crude product is triturated with DIPE and PE.

reactant | 1-(4-bromophenyl)propan-2-amine | 117 mmol, 25.0 g | BrC1=CC=C(C=C1)CC(C)N | C9H12BrN
reactant | Na2CO3 | 2N | C(=O)([O-])[O-].[Na+].[Na+]
reactant | di-tert-butyl dicarbonate | 123 mmol, 50 mL, 26.9 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | water | 250 mL | O | H2O
solvent | DCM | 500 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl 1-(4-bromophenyl)propan-2-ylcarbamate | BrC1=CC=C(C=C1)CC(C)NC(OC(C)(C)C)=O | C14H20BrNO2
